US04192890
A mixture of 23.05 g of 3-methyl-4'-chlorobenzophenone, 70 cc of carbon tetrachloride, 16.02 g of N-bromosuccinimide and 90 mg benzoyl peroxide was refluxed for 4 hours and then was added to 100 cc of carbon tetrachloride. The mixture was filtered hot and the filter was washed with 100 cc of boiling carbon tetrachloride. 200 cc of the solvent were distilled off under reduced pressure and the mixture was cooled and iced for 1 hour. The mixture was vacuum filtered and the recovered crystals were empasted with iced carbon tetrachloride and dried under reduced pressure. The residue was crystallized from ethanol to obtain 17.5 g of 3-bromomethyl-4'-chlorobenzophenone melting at 138°-139° C.

reactant | 3-methyl-4'-chlorobenzophenone | 23.05 g | CC=1C=C(C(=O)C2=CC=C(C=C2)Cl)C=CC1 | C14H11ClO
reactant | N-bromosuccinimide | 16.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 90 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 cc | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 70 cc | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-4'-chlorobenzophenone | 17.5 g | BrCC=1C=C(C(=O)C2=CC=C(C=C2)Cl)C=CC1 | C14H10BrClO
